US08685974B2
To a solution of 2-chloro-4-methylpyridine (15.6 mmol) and ethyl 5-chlorothiophene-2-carboxylate (17.2 mmol) in anhydrous THF (17 mL) at 0° C., under N2 was added dropwise a solution of lithium bis(trimethylsilyl)amide (1 molar solution in hexanes, 31.3 mmol). The mixture was stirred 2 h at 5° C. The solvent was then evaporated and the residue was dissolved in a mixture of water and dichloromethane. The organic layer was separated, and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried with MgSO4, and concentrated under reduced pressure to afford 4.3 g (96% yield) of 1-(5-chloro-2-thienyl)-2-(2-chloropyridin-4-yl)ethanone.

reactant | 2-chloro-4-methylpyridine | 15.6 mmol | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | ethyl 5-chlorothiophene-2-carboxylate | 17.2 mmol | ClC1=CC=C(S1)C(=O)OCC | C7H7ClO2S
reactant | lithium bis(trimethylsilyl)amide | 31.3 mmol, 1 molar | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 1-(5-chloro-2-thienyl)-2-(2-chloropyridin-4-yl)ethanone | 4.3 g, 96% yield | ClC1=CC=C(S1)C(CC1=CC(=NC=C1)Cl)=O | C11H7Cl2NOS
